US04241053
3.0 g of L-arabinose, 3.6 g of (1-methyl-2-methoxy-ethyl)amine and 3.5 g of 2-chloroethyl isocyanate are treated in the same manner as described in Example 13-(1). 3.1 g of 1-(2-chloroethyl)-3-(1-methyl-2-methoxy-ethyl)-3-(L-arabinopyranosyl)urea are thereby obtained as colorless caramel.

reactant | L-arabinose | 3.0 g | O=C[C@H](O)[C@@H](O)[C@@H](O)CO | C5H10O5
reactant | (1-methyl-2-methoxy-ethyl)amine | 3.6 g | CC(COC)N | C4H11NO
reactant | 2-chloroethyl isocyanate | 3.5 g | ClCCN=C=O | C3H4ClNO
product | 1-(2-chloroethyl)-3-(1-methyl-2-methoxy-ethyl)-3-(L-arabinopyranosyl)urea | 3.1 g | ClCCNC(=O)N(C1[C@H](O)[C@@H](O)[C@@H](O)CO1)C(COC)C | C12H23ClN2O6
